US05637723
A solution of 0.497 g of methyl (2R,3S)-3-t-butoxycarbonylamino-2-hydroxy-3-phenylpropionate, 0.012 g of pyridinum b-toluenesulphonate and 0.295 g of 2,4-dimethoxybenzaldehyde in 20 cm3 of anhydrous toluene is heated to reflux for 24 hours. The water formed during the reaction is removed by means of a Dean and Stark apparatus. After cooling to a temperature in the region of 20° C., the solution is washed with 37% (w/w) aqueous sodium hydrogen sulphite solution and then with saturated aqueous sodium bicarbonate solution. After concentration of the organic phase under reduced pressure, 0.700 g of (4S,5R)-3-t-butoxycarbonyl-2-(2,4-dimethoxyphenyl)-4-phenyl-5-methoxycarbonyl-1,3-oxazolidine is obtained in an 80% yield in the form of a virtually equimolecular mixture of the diastereo-isomeric forms A and B, the characteristics of which are as follows:

reactant | methyl (2R,3S)-3-t-butoxycarbonylamino-2-hydroxy-3-phenylpropionate | 0.497 g | C(C)(C)(C)OC(=O)N[C@H]([C@H](C(=O)OC)O)C1=CC=CC=C1 | C15H21NO5
reactant | 2,4-dimethoxybenzaldehyde | 0.295 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | water | O | H2O
solvent | toluene | 20 cm3 | C1(=CC=CC=C1)C | C7H8
product | (4S,5R)-3-t-butoxycarbonyl-2-(2,4-dimethoxyphenyl)-4-phenyl-5-methoxycarbonyl-1,3-oxazolidine | 0.700 g, 80% yield | C(C)(C)(C)OC(=O)N1C(O[C@H]([C@@H]1C1=CC=CC=C1)C(=O)OC)C1=C(C=C(C=C1)OC)OC | C24H29NO7
